US07259183B2
Preparation of 2-(3-chloro-4-fluoro-phenyl)-ethylamine hydrochloride
4.37 g of 3-chloro-4-fluoro-phenylacetonitrile (25 mmol) were dissolved in 40 ml THF and cooled down to 0° C. under nitrogen. 132 ml of a 1M borane-THF complex solution in THF were then added dropwise over 30 min keeping the temperature between 0-5° C. After addition the reaction mixture was stirred at rt for additional 20 min, and refluxed for 21 h. The reaction mixture was then cooled down to 0° C. and treated between 2 and 5° C. with 30 ml methanol over a period of 45 min. After 1 h refluxing the reaction mixture was concentrated, the residue dissolved in DCM and the amine extracted twice with 1N aqueous HCl. The combined aqueous phases were then treated with concentrated NaOH to adjust the pH to 12, and then extracted twice with DCM. The combined organic phases were then washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo leading to 4.3 g colorless oil. This was dissolved in 125 ml diethylether, treated with 15 ml 2.6N HCl in diethylether, stirred at rt for additional 1 h, filtered and dried under high vacuo, leading to 3.93 g white solid (75%). MS (ISP) 174.1 (M+H)+.

reactant | 3-chloro-4-fluoro-phenylacetonitrile | 25 mmol, 4.37 g | ClC=1C=C(C=CC1F)CC#N | C8H5ClFN
reactant | methanol | 30 ml | CO | CH4O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(3-chloro-4-fluoro-phenyl)-ethylamine hydrochloride | Cl.ClC=1C=C(C=CC1F)CCN | InChI=1S/C8H9ClFN.ClH/c9-7-5-6(3-4-11)1-2-8(7)10;/h1-2,5H,3-4,11H2;1H
